US07781454B2
Step 4: {[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]methyl}-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetamide
To a solution of 1-[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]methanamine (125 mg, 0.382 mmol), 1H-pyrazolo[3,4-b]pyridin-3-ylacetic acid compound with ammonium chloride (1:1), (102 mg, 0.443 mmol), HOAT (5.2 mg, 0.038 mmol) and TEA (53 μL, 0.382 mmol) in DMF (2 mL) was added EDC (80 mg, 0.42 mmol), and the mixture was stirred for 2.2 hours. The mixture was then filtered and purified using Waters PrepPak column and eluting with a gradient of 5-95% ACN/H2O with 0.1% TFA. The desired fractions were lyophilized to give title compound.

reactant | 1-[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]methanamine | 0.382 mmol, 125 mg | BrC=1C=C(OC=2C(=NC=CC2C)CN)C=C(C1)Cl | C13H12BrClN2O
reactant | 1H-pyrazolo[3,4-b]pyridin-3-ylacetic acid compound with ammonium chloride | 0.443 mmol, 102 mg | [Cl-].[NH4+].N1N=C(C=2C1=NC=CC2)CC(=O)O
reactant | HOAT | 0.038 mmol, 5.2 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.42 mmol, 80 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | {[3-(3-bromo-5-chlorophenoxy)-4-methylpyridin-2-yl]methyl}-2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetamide | BrC=1C=C(OC=2C(=NC=CC2C)CC(C(=O)N)C2=NNC3=NC=CC=C32)C=C(C1)Cl | C21H17BrClN5O2
